US03962259
1'-Allyl-1,3-dihydrospiro[isobenzofuran-1,4'-piperidine]-3-one
A mixture of 1.02 g. of 1,3-dihydrospiro[isobenzofuran-1,4'-piperidine]-3-one, 1.0 g. of sodium bicarbonate, 10 ml. of chloroform, and 0.60 g. of allyl bromide is stirred at room temperature for 24 hours and filtered. The filtrate is washed with water, dried over potassium carbonate, and concentrated to an oily solid.

reactant | 1,3-dihydrospiro[isobenzofuran-1,4'-piperidine]-3-one | N1CCC2(CC1)OC(C1=CC=CC=C12)=O | C12H13NO2
reactant | sodium bicarbonate | C([O-])(O)=O.[Na+]
reactant | allyl bromide | C(C=C)Br | C3H5Br
solvent | chloroform | C(Cl)(Cl)Cl | CHCl3
product | 1'-Allyl-1,3-dihydrospiro[isobenzofuran-1,4'-piperidine]-3-one | C(C=C)N1CCC2(CC1)OC(C1=CC=CC=C12)=O | C15H17NO2
